US09422271B2
N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-fluoro-2-(thiophen-2-yl)pyrimidin-4-amine (R═F) (Compound 41)
A mixture of 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-fluoropyrimidin-4-amine (250 mg, 0.84 mmol, 1.0 eq), thiophen-2-ylboronic acid (150 mg, 1.18 mmol, 1.4 eq), Pd(dppf)Cl2 (69 mg, 0.084 mmol, 0.1 eq), Na2CO3 (356 mg, 3.36 mmol, 4 eq), 1,4-dioxane (10 ml) and water (1.5 ml) was stirred at 100° C. under a nitrogen atmosphere for 15 h. The reaction mixture was allowed to cool to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 100:1 as eluent) to afford title compound N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-fluoro-2-(thiophen-2-yl)pyrimidin-4-amine (Compound 41) (71.2 mg, 28.1%) as a solid. LC-MS (m/z)=302.1 [M+H]+; 1H NMR (400 MHz, DMSO-d6): δ 0.77 (d, J=4 Hz, 2H), 1.01 (d, J=7.2 Hz, 2H), 1.97 (t, J=4.4 Hz, 1H), 6.58 (s, 1H), 7.21 (t, J=4.2 Hz, 1H), 7.76 (m, 2H), 8.32 (d, J=3.2 Hz, 1H), 10.12 (s, 1H), 12.24 (s, 1H).

reactant | 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-fluoropyrimidin-4-amine | 0.84 mmol, 250 mg, 1.0 eq | BrC1=NC=C(C(=N1)NC1=NNC(=C1)C1CC1)F | C10H9BrFN5
reactant | thiophen-2-ylboronic acid | 1.18 mmol, 150 mg, 1.4 eq | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 3.36 mmol, 356 mg, 4 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.084 mmol, 69 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1.5 ml | O | H2O
product | N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-fluoro-2-(thiophen-2-yl)pyrimidin-4-amine | 71.2 mg, 28.1% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1F)C=1SC=CC1 | C14H12FN5S
